US09062048B2
Step B: tert-butyl 5-oxo-3-(trifluoromethyl)-7,8-dihydro-1,6-naphthyridine-6(5H)-carboxylate
Into a 250 mL round-bottom flask, was placed a solution of tert-butyl 3-(trifluoromethyl)-7,8-dihydro-1,6-naphthyridine-6(5H)-carboxylate (as prepared in the previous step, 3.84 g, 0.01 mol, 1.00 equiv) in CCl4/CH3CN=10/1 (66 mL), a solution of sodium periodate (8.135 g, 38.01 mmol, 3.00 equiv) in water (20 mL) and Ruthenium(III)Chloride Hydrate (0.992 g, 0.30 equiv). The resulting solution was stirred for 12 h at room temperature, and then the mixture was diluted with 50 mL of CH2Cl2. The solids were filtered out. The filtrate was concentrated under vacuum. The residue was purified by chromatography over a silica gel column with ethyl acetate/petroleum ether (1:50-1:10). The title compound was obtained as a white solid.

reactant | tert-butyl 3-(trifluoromethyl)-7,8-dihydro-1,6-naphthyridine-6(5H)-carboxylate | FC(C=1C=NC=2CCN(CC2C1)C(=O)OC(C)(C)C)(F)F | C14H17F3N2O2
reactant | sodium periodate | 38.01 mmol, 8.135 g, 3.00 equiv | I(=O)(=O)(=O)[O-].[Na+]
solvent | CCl4 CH3CN | C(Cl)(Cl)(Cl)Cl.CC#N
solvent | water | 20 mL | O | H2O
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | Ruthenium(III)Chloride Hydrate | 0.992 g, 0.30 equiv | O.[Ru](Cl)(Cl)Cl
product | tert-butyl 5-oxo-3-(trifluoromethyl)-7,8-dihydro-1,6-naphthyridine-6(5H)-carboxylate | O=C1C=2C=C(C=NC2CCN1C(=O)OC(C)(C)C)C(F)(F)F | C14H15F3N2O3
